US07183276B2
To a mixed solution of 5-bromo-2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole (11.0 g) and tetrahydrofuran (100 mL) was added dropwise a 1.6N n-butyllithium hexane solution (24 mL) at −78° C. under a nitrogen atmosphere. After stirring the reaction mixture at −78° C. for 10 min, CO2 gas was blown into the reaction mixture for 30 min. The reaction mixture was poured into water and washed with ether. The aqueous layer was acidified with conc. hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]carboxylic acid (7.4 g, yield 76%) as crystals. Recrystallization from ethyl acetate gave colorless crystals. melting point: 183–185° C.

reactant | 5-bromo-2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole | 11.0 g | BrC1=C(N=C(O1)C)C1=CC=2CCCCC2C=C1 | C14H14BrNO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium hexane | 1.6N, 24 mL | CCCCCC.C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | water | O | H2O
product | [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]carboxylic acid | 7.4 g, yield 76% | CC=1OC(=C(N1)C1=CC=2CCCCC2C=C1)C(=O)O | C15H15NO3
